US08957215B2
(a) 2-[6-(4-Methylpiperazin-1-yl)pyridin-3-yl]-1,3-benzothiazole-6-carboxylic Acid Hydrochloride
Ethyl 2-[6-(4-methylpiperazin-1-yl)pyridin-3-yl]-1,3-benzothiazole-6-carboxylate (46 mg, 0.12 mmol) was heated at 110° C. in 6 M HCl (2 mL) for 3 h. The solvent was evaporated in vacuo, before co-evaporation with toluene three times, to give the title compound (46 mg) as a yellow solid. 1H NMR δ 10.90 (br. s., 1 H) 8.88 (d, 1 H) 8.73 (s, 1 H) 8.28 (dd, 1 H) 8.05 (s, 2 H) 6.97-7.40 (m, 2 H) 4.59 (d, 2 H) 3.51 (d, 2 H) 3.33-3.45 (m, 2 H) 3.02-3.16 (m, 2 H) 2.80 (d, 3 H); MS m/z (M+H) 355, (M−H) 353.

reactant | Ethyl 2-[6-(4-methylpiperazin-1-yl)pyridin-3-yl]-1,3-benzothiazole-6-carboxylate | 0.12 mmol, 46 mg | CN1CCN(CC1)C1=CC=C(C=N1)C=1SC2=C(N1)C=CC(=C2)C(=O)OCC | C20H22N4O2S
reactant | HCl | 6 M, 2 mL | Cl | ClH
product | 2-[6-(4-Methylpiperazin-1-yl)pyridin-3-yl]-1,3-benzothiazole-6-carboxylic Acid Hydrochloride | 46 mg | Cl.CN1CCN(CC1)C1=CC=C(C=N1)C=1SC2=C(N1)C=CC(=C2)C(=O)O | InChI=1S/C18H18N4O2S.ClH/c1-21-6-8-22(9-7-21)16-5-3-13(11-19-16)17-20-14-4-2-12(18(23)24)10-15(14)25-17;/h2-5,10-11H,6-9H2,1H3,(H,23,24);1H
